US08389524B2
(b) Phenylmethyl (1R)-1-{[4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1-piperidinyl]methyl}-3,8-dioxo-1,2,3,4-tetrahydro-5H,8H-2a,5,8a-triazaacenaphthylene-5-carboxylate
Phenylmethyl (1S)-1-{[(methylsulfonyl)oxy]methyl}-3,8-dioxo-1,2,3,4-tetrahydro-5H,8H-2a,5,8a-triazaacenaphthylene-5-carboxylate (232 mg, 0.508 mmol) was dissolved in dry acetonitrile (10 ml) at room temperature under argon and treated with pyridine (0.049 ml, 0.610 mmol). 1,1-Dimethylethyl 4-piperidinylcarbamate (127 mg, 0.610 mmol) was then added and the reaction was heated at 70° C. overnight. Then 0.049 ml of pyridine and 127 mg of 1,1-dimethylethyl 4-piperidinylcarbamate were added to the reaction and the temperature was increased to 80° C. for 8 h and then the reaction was stirred at room temperature overnight. The solvent was evaporated and the residue partitioned between sat NaHCO3 and DCM (50/50 ml). The layers were separated and the aqueous layer was extracted with DCM again (2×50 ml). The combined organic extracts were dried (MgSO4) filtered and evaporated to afford 280 mg of crude product which was purified by silica chromatography using a 0-5% methanol/dichloromethane gradient to afford the product as a yellow gum (130 mg, 47.6%).

reactant | Phenylmethyl (1S)-1-{[(methylsulfonyl)oxy]methyl}-3,8-dioxo-1,2,3,4-tetrahydro-5H,8H-2a,5,8a-triazaacenaphthylene-5-carboxylate | 0.508 mmol, 232 mg | CS(=O)(=O)OC[C@@H]1CN2C(CN(C=3C=CC(N1C23)=O)C(=O)OCC2=CC=CC=C2)=O | C19H19N3O7S
reactant | pyridine | 0.610 mmol, 0.049 ml | N1=CC=CC=C1 | C5H5N
reactant | 1,1-Dimethylethyl 4-piperidinylcarbamate | 0.610 mmol, 127 mg | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | pyridine | 0.049 ml | N1=CC=CC=C1 | C5H5N
reactant | 1,1-dimethylethyl 4-piperidinylcarbamate | 127 mg | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | Phenylmethyl (1R)-1-{[4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1-piperidinyl]methyl}-3,8-dioxo-1,2,3,4-tetrahydro-5H,8H-2a,5,8a-triazaacenaphthylene-5-carboxylate | 130 mg, 47.6% | CC(C)(C)OC(=O)NC1CCN(CC1)C[C@@H]1CN2C(CN(C=3C=CC(N1C23)=O)C(=O)OCC2=CC=CC=C2)=O | C28H35N5O6
